*$ 
* LT1014x_30V
*****************************************************************************
* (C) Copyright 2020 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: LT1014x_30V
* Date: 08/31/89
* Parts is a MicroSim product.
*
* Model Version: Final 1.0
*
*****************************************************************************
*
* Final 1.0
* Release to Web.
* 
* Model Usage Notes:
* 1. Model file is updated with latest header.
***************************************************************************** 
* CONNECTIONS:        NON-INVERTING INPUT
*                     | INVERTING INPUT
*                     | | POSITIVE POWER SUPPLY
*                     | | | NEGATIVE POWER SUPPLY
*                     | | | | OUTPUT
*                     | | | | |
.SUBCKT LT1014x_30V   1 2 3 4 5
*
  C1   11 12 6.495E-12
  C2    6  7 20.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 3.865E9 -4E9 4E9 4E9 -4E9
  GA    6  0 11 12 87.97E-6
  GCM   0  6 10 99 98.71E-12
  IEE   3 10 DC 8.030E-6
  HLIM 90  0 VLIM 1K
  Q1   11  2 13 QX
  Q2   12  1 14 QX
  R2    6  9 100.0E3
  RC1   4 11 11.37E3
  RC2   4 12 11.37E3
  RE1  13 10 4.883E3
  RE2  14 10 4.883E3
  REE  10 99 24.91E6
  RO1   8  5 50
  RO2   7 99 25
  RP    3  4 87.72E3
  VB    9  0 DC 0
  VC 3 53 DC 1.600
  VE   54  4 DC 1.600
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL QX PNP(IS=800.0E-18 BF=266.7)
.ENDS